US06080743
c) cis-2-[N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)amino]-cyclohexane-1-carboxylic acid
105 mg (0.588 mmol) of cis-2-amino-cyclohexanecarboxylic acid and 82 μl (0.588 mmol) of triethylamine are added in succession to a solution of 129 mg (0.490 mmol) of 2,3-dimethoxy-7-nitro-quinoxaline-5-carbaldehyde in 1 ml of dichloromethane and 2 ml of ethanol. After 3 hours' stirring at room temperature, 1 g of anhydrous sodium sulfate is added to the suspension and the mixture is stirred for a further 20 hours at room temperature. The thick suspension is diluted with 0.5 ml of ethanol and 46 mg (1.23 mmol) of sodium borohydride are added. After 3 hours' stirring, there are added 0.5 ml of acetone and 10 minutes later 0.3 ml of acetic acid and filtration is carried out. The filter residue is washed with ethanol and dichloromethane. The filtrate is chromatographed on silica gel first with dichloromethane/ethyl acetate (97:3) and then with dichloromethane/methanol/glacial acetic acid (90:9:1). The title compound is obtained in the form of a white powder.

reactant | cis-2-amino-cyclohexanecarboxylic acid | 0.588 mmol, 105 mg | N[C@@H]1[C@@H](CCCC1)C(=O)O | C7H13NO2
reactant | triethylamine | 0.588 mmol, 82 μl | C(C)N(CC)CC | C6H15N
reactant | 2,3-dimethoxy-7-nitro-quinoxaline-5-carbaldehyde | 0.490 mmol, 129 mg | COC1=NC=2C=C(C=C(C2N=C1OC)C=O)[N+](=O)[O-] | C11H9N3O5
reactant | sodium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium borohydride | 1.23 mmol, 46 mg | [BH4-].[Na+]
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | cis-2-[N-(2,3-Dimethoxy-7-nitro-quinoxalin-5-ylmethyl)amino]-cyclohexane-1-carboxylic acid | COC1=NC2=CC(=CC(=C2N=C1OC)CN[C@@H]1[C@@H](CCCC1)C(=O)O)[N+](=O)[O-] | C18H22N4O6
